US04642313
10 g of ethyl 3-(4-methylbenzoylamino)-3-(2-furylcarbonyl)propionate, 40 ml of chloroform and 23.3 g of phosphorus oxychloride are treated in the same manner as described in Example 1. 4.0 g of ethyl 2-[2-(4-methylphenyl)-5-(2-furyl)-4-oxazolyl]acetate are thereby obtained. Yield: 42.3%

reactant | ethyl 3-(4-methylbenzoylamino)-3-(2-furylcarbonyl)propionate | 10 g | CC1=CC=C(C(=O)NC(CC(=O)OCC)C(=O)C=2OC=CC2)C=C1 | C18H19NO5
reactant | phosphorus oxychloride | 23.3 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
product | ethyl 2-[2-(4-methylphenyl)-5-(2-furyl)-4-oxazolyl]acetate | 4.0 g, Yield: 42.3% | CC1=CC=C(C=C1)C=1OC(=C(N1)CC(=O)OCC)C=1OC=CC1 | C18H17NO4
